US08491931B2
(S)-N-Methoxycarbonyl alanine
To a stirred solution of L-alanine (300 g, 3.37 mol sodium hydroxide (1N, 1800 cm3) at 0° C. in an ice bath was added dropwise, over 2 hours, methyl chloroformate (274 cm3, 3.54 mol). The pH of the solution was maintained at 9 by the addition of sodium hydroxide (5N). The reaction mixture was stirred at 0° C. for 3 hours whereupon it was acidified to pH 1 by the addition of phosphoric acid solution (15%) and extracted with diethyl ether (5×1000 cm3). The combined organic extracts were dried (MgSO4) and concentrated under reduced pressure to yield the product as a viscous green oil (386 g, 78%). 1H NMR (250 MHz; C2HCl3) 1.48 (3H, d, J7.25, CH3), 3.72 (3H, s, COCH3), 4.40 (1H, quintet, J7.25, CH), 5.31 (1H, bs, NH).

reactant | L-alanine | N[C@@H](C)C(=O)O | C3H7NO2
reactant | sodium hydroxide | 3.37 mol, 1N, 1800 cm3, 300 g | [OH-].[Na+]
reactant | methyl chloroformate | 3.54 mol, 274 cm3 | ClC(=O)OC | C2H3ClO2
reactant | sodium hydroxide | 5N | [OH-].[Na+]
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
product | (S)-N-Methoxycarbonyl alanine | 386 g, 78% | COC(=O)N[C@@H](C)C(=O)O | C5H9NO4
